US08012976B2
A mixture of methyl 3-(3-(4-isobutyrylpiperazine-1-carbonyl)phenyl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate (110 mg, 0.20 mmol) in hydrazine monohydrate (5 mL) and methanol (2 mL) was stirred at 25° C. for 4 hr. The mixture was extracted with ethyl acetate (50 mL×3). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated to give crude product. The crude product was purified by prep-HPLC to give 9-(3-(4-isobutyrylpiperazine-1-carbonyl)phenyl)-8-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one (12 mg, yield: 11%) as a white solid. 1H-NMR (400 MHz, CD3OD) δ: 0.96-0.98 (d, J=6.8 Hz, 6H), 2.68-2.95 (m, 2H), 3.28-3.55 (m, 7H), 4.19-4.22 (d, J=10.0 Hz, 1H), 4.54-4.57 (d, J=10.4 Hz, 1H), 7.03-7.20 (m, 10H), 7.40-7.50 (m, 2H); LC-MS (ESI) m/z: 522(M+1)+.

reactant | methyl 3-(3-(4-isobutyrylpiperazine-1-carbonyl)phenyl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | 0.20 mmol, 110 mg | C(C(C)C)(=O)N1CCN(CC1)C(=O)C=1C=C(C=CC1)C1C(NC=2C=CC=C(C2C1=O)C(=O)OC)C1=CC=CC=C1 | C32H33N3O5
reactant | hydrazine monohydrate | 5 mL | O.NN
solvent | methanol | 2 mL | CO | CH4O
product | 9-(3-(4-isobutyrylpiperazine-1-carbonyl)phenyl)-8-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 12 mg, yield: 11% | C(C(C)C)(=O)N1CCN(CC1)C(=O)C=1C=C(C=CC1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=CC=C2 | C31H31N5O3
